US08110570B2
In a manner identical to Example 140, 121 mg (0.30 mmol) of benzyl 2-benzyloxy-5-(morpholin-4-yl)benzoate is converted to 2-benzyloxy-5-(morpholin-4-yl)benzamide which on hydrogenolysis gives 56 mg (0.25 mmol, 83% yield) of 2-hydroxy-5-(morpholin-4-yl)benzamide.

reactant | benzyl 2-benzyloxy-5-(morpholin-4-yl)benzoate | 0.30 mmol, 121 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)N1CCOCC1 | C25H25NO4
reactant | 2-benzyloxy-5-(morpholin-4-yl)benzamide | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=C(C=C1)N1CCOCC1 | C18H20N2O3
product | 2-hydroxy-5-(morpholin-4-yl)benzamide | 0.25 mmol, 56 mg, 83% yield | OC1=C(C(=O)N)C=C(C=C1)N1CCOCC1 | C11H14N2O3
